US08895582B2
To a solution of (S)-3-(2-chloro-3-fluorobenzyl)-1-(5-(1,3-dioxoisoindolin-2-yl)-1-hydroxypentan-2-yl)-1-methylurea (200 mg, 0.45 mmol), 5-(trifluoromethyl)picolinic acid (256 mg, 1.35 mmol) and DMA (0.3 mL, 1.35 mmol) in toluene (5 mL) was added DPPA (0.27 mL, 1.35 mmol). The mixture was heated to 100° C. for 2 h, and concentrated. The resulting residue was purified on RP-HPLC using a mixture of acetonitrile and H2O to give (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(1,3-dioxoisoindolin-2-yl)pentyl 5-(trifluoromethyl)pyridin-2-ylcarbamate (150 mg, 80%). LRMS (M+Na+) m/z 658.2.

reactant | (S)-3-(2-chloro-3-fluorobenzyl)-1-(5-(1,3-dioxoisoindolin-2-yl)-1-hydroxypentan-2-yl)-1-methylurea | 0.45 mmol, 200 mg | ClC1=C(CNC(N(C)[C@H](CO)CCCN2C(C3=CC=CC=C3C2=O)=O)=O)C=CC=C1F | C22H23ClFN3O4
reactant | 5-(trifluoromethyl)picolinic acid | 1.35 mmol, 256 mg | FC(C=1C=CC(=NC1)C(=O)O)(F)F | C7H4F3NO2
reactant | DMA | 1.35 mmol, 0.3 mL | CC(=O)N(C)C | C4H9NO
reactant | DPPA | 1.35 mmol, 0.27 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(1,3-dioxoisoindolin-2-yl)pentyl 5-(trifluoromethyl)pyridin-2-ylcarbamate | 150 mg, 80% | FC(C=1C=CC(=NC1)NC(OC[C@H](CCCN1C(C2=CC=CC=C2C1=O)=O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O)(F)F | C29H26ClF4N5O5
